US05684022
A mixture of 2H-1,2,3-triazole (2.26 g), sodium hydride (60%, 1.31 g) and anhydrous N,N-dimethylformamide (100 ml) was stirred at 60° to 70° C. under a nitrogen atmosphere for 2 hours. After the evolution of hydrogen gas ceased, the mixture was cooled to 10° C. To this mixture was added dropwise an anhydrous N,N-dimethylformamide (150 ml) solution of 4-bromomethyl-2-chlorophenyl 2,2-dimethylpropanoate (10 g) at room temperature under stirring over 1 hour, and the mixture was stirred at 80° C. for 1 hour. After cooling, the reaction mixture was poured into ice water, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous ammonium chloride solution and then saturated sodium chloride solution, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, which afforded 2-chloro-4-(2-2H-1,2,3-triazolyl)-methylphenyl 2,2-dimethylpropanoate.

reactant | 2H-1,2,3-triazole | 2.26 g | N=1NN=CC1 | C2H3N3
reactant | sodium hydride | 1.31 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-bromomethyl-2-chlorophenyl 2,2-dimethylpropanoate | 10 g | CC(C(=O)OC1=C(C=C(C=C1)CBr)Cl)(C)C | C12H14BrClO2
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-(2-2H-1,2,3-triazolyl)-methylphenyl 2,2-dimethylpropanoate | CC(C(=O)OC1=C(C(=C(C=C1)N1N=CC=N1)C)Cl)(C)C | C14H16ClN3O2
